US07579359B2
Trichloroacetyl isocyanate (3.3 mL, 28 mmol) was added to a solution of 2-isopropyl-1-methoxy-5-oxido-1H-imidazo[4,5-c]quinoline (4.7 g, 118 mmol) in dichloromethane (100 mL), and the reaction was stirred three hours at room temperature. Methanol (20 mL) was added, and the mixture was stirred for 15 minutes and concentrated under reduced pressure. The residue was dissolved in methanol (25 mL), and sodium methoxide (0.5 mL of a 4.5 N solution in methanol) was added. The mixture was stirred at room temperature for three days and concentrated under reduced pressure. The residue was stirred with dichloromethane (25 mL). A solid was present and was collected by filtration, recrystallized from methanol/water, and dried overnight in a vacuum oven at 70° C. to provide 0.878 g of 2-isopropyl-1-methoxy-1H-imidazo[4,5-c]quinolin-4-amine as tan needles, mp 217-219° C.

reactant | Trichloroacetyl isocyanate | 28 mmol, 3.3 mL | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | 2-isopropyl-1-methoxy-5-oxido-1H-imidazo[4,5-c]quinoline | 118 mmol, 4.7 g | C(C)(C)C=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)OC | C14H15N3O2
reactant | Methanol | 20 mL | CO | CH4O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-isopropyl-1-methoxy-1H-imidazo[4,5-c]quinolin-4-amine | 0.878 g | C(C)(C)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)OC | C14H16N4O
